US06124283
(R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-2-hydroxybenzamide
To an ice-cooled solution of (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene (180 mg, 0.74 mmol) and triethylamine (150 μL, 1.1 mmol) in methylene chloride (20 mL) was added dropwise acetylsalicyloyl chloride (160 mg, 0.78 mmol) in methylene chloride (10 mL). After the addition, the reaction was allowed to stir at ambient temperature for 15 min and was then washed with dilute aqueous sodium hydrogen carbonate. The phases were separated and the organic phase was dried (Na2SO4), filtered and evaporated in vacuo. The residue was dissolved in 99.5% ethanol (25 mL) and concentrated hydrochloric acid (3 mL) was added. After 17 h, the pH was adjusted to 8 and the solvent was evaporated in vacuo. The residue was partitioned between water and methylene chloride. The organic phase was separated, dried (Na2SO4), filtered and evaporated in vacuo to give a crude product which was purified on a silica gel column using chloroform/ethanol saturated with NH3 (100:3) as the eluent. Yield: 170 mg (63%) of the title compound as white crystals: mp 87° C. decomp; [α]21D -18° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 365 (33, M+).

reactant | (R)-2-amino-8-(4-methylpiperazin-1-yl)-1,2,3,4-tetrahydronaphthalene | 0.74 mmol, 180 mg | N[C@H]1CC2=C(C=CC=C2CC1)N1CCN(CC1)C | C15H23N3
reactant | triethylamine | 1.1 mmol, 150 μL | C(C)N(CC)CC | C6H15N
reactant | acetylsalicyloyl chloride | 0.78 mmol, 160 mg | C(C)(=O)OC=1C(C(=O)Cl)=CC=CC1 | C9H7ClO3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[8-(4-Methylpiperazin-1-yl)-1,2,3,4-tetrahydro-2-naphthyl]-2-hydroxybenzamide | CN1CCN(CC1)C=1C=CC=C2CC[C@H](CC12)NC(C1=C(C=CC=C1)O)=O | C22H27N3O2
